US08183289B2
Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-bromophenyl)acetate (30 mg, 0.058 mmol) was diluted with dioxane (500 μL) followed by the addition of NaOH (0.093 ml, 0.46 mmol) and 200 μL of water. After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated to yield 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-bromophenyl)acetic acid (24 mg, 85% yield) as a white solid. 1H NMR (400 MHz, CD3Cl3, CD3OD) 7.70 (d, 2H), 7.60 (s, 1H), 7.22-7.32 (m, 3H), 7.19 (d, 2H), 7.05 (d, 1H), 6.90 (d, 2H), 3.62 (m, 4H), 2.90 (t, 2H).

reactant | Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-bromophenyl)acetate | 0.058 mmol, 30 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCC)Br)C=C2)C=C1 | C25H23BrClNO4
reactant | NaOH | 0.46 mmol, 0.093 ml | [OH-].[Na+]
reactant | water | 200 μL | O | H2O
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-bromophenyl)acetic acid | 24 mg, 85% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)Br)C=C2)C=C1 | C23H19BrClNO4
